US05612362
(a) N-Methoxy-N-methyl-2-t-butyldimethylsilyloxy-3-(3-indolyl)propionamide
Indole lactic acid (5.0 g) was suspended in dichloromethane (100 ml) and treated with triethylamine (6.8 ml) and t-butyldimethylsilyl triflate (5.7 ml) for 24 hours. iso-Butyl chloroformate (3.1 ml) was added followed by N,O-dimethylhydroxylamine (2.4 g) and triethylamine (3.4 ml). The solution was stirred for 24 hours then washed with water, dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel eluting with ethyl acetate-petroleum ether to give the title compound as a white solid.

reactant | Indole lactic acid | 5.0 g | N1C(=CC2=CC=CC=C12)CC(C(=O)O)O | C11H11NO3
reactant | t-butyldimethylsilyl triflate | 5.7 ml | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
reactant | iso-Butyl chloroformate | 3.1 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N,O-dimethylhydroxylamine | 2.4 g | CNOC | C2H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | triethylamine | 3.4 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 6.8 ml | C(C)N(CC)CC | C6H15N
product | N-Methoxy-N-methyl-2-t-butyldimethylsilyloxy-3-(3-indolyl)propionamide | CON(C(C(CC1=CNC2=CC=CC=C12)O[Si](C)(C)C(C)(C)C)=O)C | C19H30N2O3Si
